US09290485B2
b) N-((6-amino-2-methylpyridin-3-yl)methyl)-1-((2-methylquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamide
To a suspension of 1-((2-methylquinolin-6-yl)methyl)-1H-pyrazole-4-carboxylic acid (incl. NaCl) (100 mg, 0.337 mmol), EDC.HCl (84 mg, 0.438 mmol) and HOAt (59.6 mg, 0.438 mmol) in DMF (1 ml) was added N-methylmorpholine (0.185 ml, 1.684 mmol). The reaction mixture was stirred for 1 h at 50° C., then 5-(aminomethyl)-6-methylpyridin-2-amine (70.7 mg, 0.337 mmol) was added. Stirring continued at 50° C. for 18 h. Reaction mixture was diluted with methanol, then applied onto a PL-SO3H cartridge (500 mg/6 ml by VARIAN) to catch the desired amine product, washed the cartridge with DMF, DCM and MeOH to remove all impurities, then the product was released from the cartridge by washing with 2M NH3 in MeOH. The basic filtrate was evaporated to give the crude material, which was treated with 0.2 ml of MeOH and 1 ml of ACN in ultrasonic bath. The precipitate formed was filtered, washed with 1 ml of ACN and dried under high vacuum for 4 days to yield the title compound. HPLC (Method J) Rt=2.373 min, MS (Method V) [M+H]+=387.1.

reactant | 1-((2-methylquinolin-6-yl)methyl)-1H-pyrazole-4-carboxylic acid | CC1=NC2=CC=C(C=C2C=C1)CN1N=CC(=C1)C(=O)O | C15H13N3O2
reactant | NaCl | [Na+].[Cl-]
reactant | EDC.HCl | 0.438 mmol, 84 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 0.438 mmol, 59.6 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 1.684 mmol, 0.185 ml | CN1CCOCC1 | C5H11NO
reactant | 5-(aminomethyl)-6-methylpyridin-2-amine | 0.337 mmol, 70.7 mg | NCC=1C=CC(=NC1C)N | C7H11N3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
solvent | MeOH | 0.2 ml | CO | CH4O
solvent | ACN | 1 ml | C(C)#N | C2H3N
product | N-((6-amino-2-methylpyridin-3-yl)methyl)-1-((2-methylquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamide | NC1=CC=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC=1C=C2C=CC(=NC2=CC1)C | C22H22N6O
